US05717100
3-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H-IMIDAZOL-2-YL]-1-METHYLPIPERIDINE
To a stirring solution of 3-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (200 mg) in THF (2.0 mL) was added lithium aluminum hydride (1.14 mmol, 1.14 mL of a 1M solution in THF) and the mixture heated to reflux for 6 h. The reaction was quenched with water (2.0 mL), diluted with ethyl acetate (25 mL) and filtered. The filtrates were washed with saturated sodium bicarbonate (50 mL) and the aqueous layer extracted with CH2Cl2 (2×30 mL). The organic layers were combined, dried over anhydrous sodium sulfate and evaporated under reduced pressure and the residue crystallized from diethyl ether to give 60 mg. of the title compound as an off white powder. mp=195°-197° C.

reactant | 3-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)C=1NC(=C(N1)C1=CC=NC=C1)C1=CC=C(C=C1)F | C24H27FN4O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 3-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H-IMIDAZOL-2-YL]-1-METHYLPIPERIDINE | FC1=CC=C(C=C1)C1=C(N=C(N1)C1CN(CCC1)C)C1=CC=NC=C1 | C20H21FN4
